US05676925
(i) Ethyl chloroethyl carbonate
To a solution of chloroethyl chloroformate (23.16 g, 0.162 mol) and ethanol (7.45 g, 0.162 mol) in methylene chloride (200 ml), pyridine (12.82 g, 0.162 mol) was added at 0° C. After 10 min at 0° C. and 21 hours at 25° C. the reaction mixture was washed with aqueous hydrochloric acid (100 ml), aqueous saturated sodium hydrogen carbonate (100 ml) and water (100 ml). The solvent was removed under reduced pressure after drying (MgSO4), giving 18.5 g (74%) of the intermediate ethyl chloroethyl carbonate as a crude product.

reactant | chloroethyl chloroformate | 0.162 mol, 23.16 g | ClC(=O)OCCCl | C3H4Cl2O2
reactant | ethanol | 0.162 mol, 7.45 g | C(C)O | C2H6O
reactant | pyridine | 0.162 mol, 12.82 g | N1=CC=CC=C1 | C5H5N
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
product | Ethyl chloroethyl carbonate | 18.5 g, 74% | C(OCC)(OCCCl)=O | C5H9ClO3
